US07935700B2
(161-1) Synthesis of 4-ethoxycarbonylmethylphenylthioacetic acid
Ethyl 4-bromophenylacetate (500 mg), diisopropylethylamine (700 μL), tris(dibenzylidenacetone)dipalladium(0) (46 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (58 mg) were dissolved in dioxane (5 mL). Then, thioglycol acid (140 μL) was added, and the mixture was heated under reflux for 4 hrs. The reaction mixture was poured into water, the aqueous phase was washed with ethyl acetate and acidified with 1 mol/L hydrochloric acid. Then, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (260 mg) as a colorless oil.

reactant | Ethyl 4-bromophenylacetate | 500 mg | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
reactant | diisopropylethylamine | 700 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 58 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | thioglycol | 140 μL | C(CS)O | C2H6OS
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-ethoxycarbonylmethylphenylthioacetic acid | 260 mg | C(C)OC(=O)CC1=CC=C(C=C1)CC(=S)O | C12H14O3S
